US08604055B2
Step (ii): Synthesis of (3-{[3,5-bis-trifluoromethyl-benzyl-(5-methyl-isoxazol-3-yl)-amino]-methyl}-quinolin-2-yl)-cyclobutylmethyl-ethyl-amine
Sodium methoxide (0.108 g, 2.0 mmol) was added to an anhydrous tetrahydrofuran (6 mL) solution of cyclobutylmethyl-ethyl-{3-[(5-methyl-isoxazol-3-ylamino)-methyl]-quinolin-2-yl}-amine (0.14 g, 0.4 mmol), with stirring, at ambient temperature. After this mixture was stirred for 15 minutes, 3,5-bis-trifluoromethybenzyl bromide (0.08 mL, 0.4 mmol) was added slowly, and stirring was continued overnight. Ethyl acetate (30 mL) and water (30 mL) were added, and the layers were separated. The aqueous layer was back-extracted with ethyl acetate (2×30 mL), and the combined organic extracts were washed with brine, dried over sodium sulfate, and concentrated in vacuo. The crude residue was purified by chromatography on silica gel and eluted with 10-70% hexane in ethyl acetate to afford the title compound (0.045 g, yield: 20%).

reactant | Sodium methoxide | 2.0 mmol, 0.108 g | C[O-].[Na+]
reactant | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
reactant | cyclobutylmethyl-ethyl-{3-[(5-methyl-isoxazol-3-ylamino)-methyl]-quinolin-2-yl}-amine | 0.4 mmol, 0.14 g | C1(CCC1)CN(C1=NC2=CC=CC=C2C=C1CNC1=NOC(=C1)C)CC | C21H26N4O
reactant | 3,5-bis-trifluoromethybenzyl bromide | 0.4 mmol, 0.08 mL | FC(C=1C=C(CBr)C=C(C1)C(F)(F)F)(F)F | C9H5BrF6
solvent | water | 30 mL | O | H2O
solvent | Ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | (3-{[3,5-bis-trifluoromethyl-benzyl-(5-methyl-isoxazol-3-yl)-amino]-methyl}-quinolin-2-yl)-cyclobutylmethyl-ethyl-amine | 0.045 g, yield: 20% | FC(C=1C=C(CN(C2=NOC(=C2)C)CC=2C(=NC3=CC=CC=C3C2)N(CC)CC2CCC2)C=C(C1)C(F)(F)F)(F)F | C30H30F6N4O
